US06426345B1
A mixture of 2-[3-(indol-1-yl)phenylamino]-3-nitropyridine (1.0 g), acetic anhydride (0.46 g), and aluminum chloride (1.21 g) in dry methylene chloride (10 ml) was stirred at room temperature for 3 hours. The reaction mixture was treated with 1N sodium hydroxide solution and precipitated brown crystals were collected, washed with water and dried to give 2-[3-(3-acetylindol-1-yl)phenylamino]-3-nitropyridine (1.17 g).

reactant | 2-[3-(indol-1-yl)phenylamino]-3-nitropyridine | 1.0 g | N1(C=CC2=CC=CC=C12)C=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C19H14N4O2
reactant | acetic anhydride | 0.46 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | aluminum chloride | 1.21 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-(3-acetylindol-1-yl)phenylamino]-3-nitropyridine | 1.17 g | C(C)(=O)C1=CN(C2=CC=CC=C12)C=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C21H16N4O3
